US04923997
4-hydroxyphenyl maleimide was prepared by the same procedure as for 4-ethynylphenyl maleimide with the following starting materials aminophenol (54.5 g, 0.50 mole), maleic anhydride (49.0 g, 0.50 mole), acetone (500 ml), triethylamine (11 ml), nickel (II) acetate (0.5 g, 43 mmol), and acetic anhydride (63.8 g, 0.625 mol).

reactant | 4-ethynylphenyl maleimide | C(#C)C1=CC=C(C=C1)C=1C(=O)NC(C1)=O | C12H7NO2
reactant | aminophenol | 0.50 mole, 54.5 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | maleic anhydride | 0.50 mole, 49.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | acetic anhydride | 0.625 mol, 63.8 g | C(C)(=O)OC(C)=O | C4H6O3
catalyst | nickel (II) acetate | 43 mmol, 0.5 g | C(C)(=O)[O-].[Ni+2].C(C)(=O)[O-]
solvent | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-hydroxyphenyl maleimide | OC1=CC=C(C=C1)C=1C(=O)NC(C1)=O | C10H7NO3
